US08629270B2
tert-Butyl N-allyl-N-[-2-hydroxyimino-2-phenyl-ethyl]carbamate
A mixture of tert-butyl N-allyl-N-phenacyl-carbamate (3.2 g, 11.6 mmol), hydroxylamine hydrochloride (1.2 g, 17.4 mmol) and sodium acetate (1.4 g, 17.4 mmol) in ethanol (46 mL) is stirred at 70° C. for 18 hours. The reaction is cooled, diluted with water and extracted with dichloromethane. The organic layers are combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound as a mixture of E and Z isomers which is used without further purification (3.16 g, 94%). ES/MS (m/e): 191 (M+H-100).

reactant | tert-butyl N-allyl-N-phenacyl-carbamate | 11.6 mmol, 3.2 g | C(C=C)N(C(OC(C)(C)C)=O)CC(=O)C1=CC=CC=C1 | C16H21NO3
reactant | hydroxylamine hydrochloride | 17.4 mmol, 1.2 g | Cl.NO
reactant | sodium acetate | 17.4 mmol, 1.4 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 46 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | tert-Butyl N-allyl-N-[-2-hydroxyimino-2-phenyl-ethyl]carbamate | C(C=C)N(C(OC(C)(C)C)=O)CC(C1=CC=CC=C1)=NO | C16H22N2O3
